US07288553B2
2-(2-Ethylsulfanyl-1-methoxy-1-methyl-ethyl)-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole
This compound was prepared using the standard Sonagashira procedure as described in General Procedures Example C. The starting material was N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide (0.34 g, 0.82 mmol) and 4-ethylsulfanyl-3-methoxy-3-methyl-but-1-yne (0.13 g, 0.82 mmol), reacted to yield the title compound as a yellow film.

reactant | N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide | 0.82 mmol, 0.34 g | IC1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)NS(=O)(=O)C | C8H6F3IN2O4S
reactant | 4-ethylsulfanyl-3-methoxy-3-methyl-but-1-yne | 0.82 mmol, 0.13 g | C(C)SCC(C#C)(C)OC | C8H14OS
product | 2-(2-Ethylsulfanyl-1-methoxy-1-methyl-ethyl)-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole | C(C)SCC(C)(OC)C=1N(C2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F)S(=O)(=O)C | C16H19F3N2O5S2
